US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-phenylamino-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXVII)
(1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (100 mg, 0.5 mmol), isothiocyanatobenzene (60 L, 0.5 mmol), and PS-carbodiimide (769 mg, 1.01 mmol) were heated overnight at 70° C. in a sealed tube with tetrahydrofuran (10 mL). The solids were removed by filtration and the filtrate was concentrated. The organics were purified by reverse phase chromatography (Gilson) to afford, following neutralization and concentration, the title compound as a yellow solid (21%). 1H NMR (d-4 methanol): 7.73 (m, 3H), 7.29 (m, 2H), 6.98 (m, 1H), 6.44 (m, 1H), 6.40 (m, 1H), 5.31 (m, 1H), 4.88 (m, 3H), 2.98 (s, 1H), 2.89 (s, 1H), 2.73 (m, 1H), 2.37 (m, 1H), 1.57 (m, 1H), 1.30 (m, 2H). MS: 394.9 (M+H). HPLC retention time: 2.33 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.5 mmol, 100 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | isothiocyanatobenzene | 0.5 mmol, 60 L | N(=C=S)C1=CC=CC=C1 | C7H5NS
reactant | carbodiimide | 1.01 mmol, 769 mg | N=C=N | CH2N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1S,2S,3R,4R)-3-(6-Chloro-2-phenylamino-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | ClC=1C(=C2C(=NC1)NC(=N2)NC2=CC=CC=C2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H19ClN6O
